US05401756
a) Preparation of 4-nitro-2-(3-pyridylmethyl)-1H-isoindole-1,3 (2H)-dione
To a mixture of 15.0 g of 3-nitrophthalic acid anhydride, 233 ml of acetic acid and 80 ml of toluene was added 10.1 g of 3-aminomethylpyridine, and the resultant mixture was refluxed for 1.5 hours under heating. The reaction mixture was concentrated in vacuo, diluted with ethyl acetate, washed with 1N aqueous sodium hydroxide and water in order, dried over anhydrous magnesium sulfate and concentrated in vacuo to give 20.6 g of the titled compound.

reactant | 3-nitrophthalic acid anhydride | 15.0 g | [N+](=O)([O-])C1=C2C(C(=O)OC2=O)=CC=C1 | C8H3NO5
reactant | acetic acid | 233 ml | C(C)(=O)O | C2H4O2
reactant | 3-aminomethylpyridine | 10.1 g | NCC=1C=NC=CC1 | C6H8N2
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 4-nitro-2-(3-pyridylmethyl)-1H-isoindole-1,3 (2H)-dione | 20.6 g | [N+](=O)([O-])C1=C2C(N(C(C2=CC=C1)=O)CC=1C=NC=CC1)=O | C14H9N3O4
